US06710149B2
Specifically, the reaction of 2-[4-(dimethoxyphosphoryl)-2-oxabutyl]-acrylic acid ethyl ester with sodium hydroxide with elimination of ethanol gives 2-[4-(dimethoxyphosphoryl)-2-oxa-butyl]-acrylic acid:

reactant | 2-[4-(dimethoxyphosphoryl)-2-oxabutyl]-acrylic acid ethyl ester | C(C)OC(C(=C)COCCP(=O)(OC)OC)=O | C10H19O6P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-[4-(dimethoxyphosphoryl)-2-oxa-butyl]-acrylic acid | COP(=O)(OC)CCOCC(C(=O)O)=C | C8H15O6P
